US05059597
b) trans-1-Benzyl-3-benzylmethylamino-4-methoxypyrrolidine
17.3 g (58 mmol) of crude trans-1-benzyl-3-benzylmethylamino-4-hydroxy-pyrrolidine in 80 ml of absolute tetrahydrofuran are added dropwise to 2.8 g (93.3 mmol) of 80% strength sodium hydride in 40 ml of absolute tetrahydrofuran and the mixture is heated under reflux at the same time. When the evolution of hydrogen has ended, 8.7 g (61 mmol) of methyl iodide are added dropwise and the mixture is then heated under reflux overnight. It is poured into ice-water and extracted with toluene, the extracts are dried with K2CO3 and concentrated and the residue is distilled.

reactant | trans-1-benzyl-3-benzylmethylamino-4-hydroxy-pyrrolidine | 58 mmol, 17.3 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)O)NCCC1=CC=CC=C1 | C19H24N2O
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 61 mmol, 8.7 g | CI | CH3I
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | trans-1-Benzyl-3-benzylmethylamino-4-methoxypyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)OC)NCCC1=CC=CC=C1 | C20H26N2O
